US04311696
2-(4-Azidophenyl)-3-methylbutanoic acid, benzyl ester
To a stirred solution of 20 ml of water and 11 ml of concentrated hydrochloric acid at <10° was added a solution of 14.17 g of 2-(4-aminophenyl)-3-methylbutanoic acid, benzyl ester in 50 ml of acetic acid. At 0° to 5° was added a solution of 3.62 g of sodium nitrite in 12.5 ml of water. The mixture was stirred at 0° to 5° for an additional 45 minutes, then poured into a stirred solution of 3.25 g of sodium azide in 12.5 ml of water in an ice-cooled beaker. Gas evolved immediately along with formation of orange oil. After 3-4 minutes, the mixture was diluted with water to 400 ml, then extracted with butyl chloride. The butyl chloride solution was washed with water (3 times) and saturated sodium bicarbonate solution, dried (MgSO4) and evaporated to 13.5 g of oil, 2-(4-azidophenyl)-3-methylbutanoic acid, benzyl ester, which began to solidify. The infrared spectrum of the oil shows absorption peaks at 2130 cm-1 (azide) and 1740 cm-1 (ester carbonyl). Thin-layer chromatography on silica gel-coated plates in chloroform or butyl chloride showed only one spot.

reactant | hydrochloric acid | 11 ml | Cl | ClH
reactant | 2-(4-aminophenyl)-3-methylbutanoic acid, benzyl ester | 14.17 g | NC1=CC=C(C=C1)C(C(=O)OCC1=CC=CC=C1)C(C)C | C18H21NO2
reactant | sodium nitrite | 3.62 g | N(=O)[O-].[Na+]
reactant | sodium azide | 3.25 g | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 12.5 ml | O | H2O
solvent | water | 12.5 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 2-(4-Azidophenyl)-3-methylbutanoic acid, benzyl ester | N(=[N+]=[N-])C1=CC=C(C=C1)C(C(=O)OCC1=CC=CC=C1)C(C)C | C18H19N3O2
